US04797391
A mixture of ethyl [(9-acetoxy-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate (4.27 g, 0.0094 mol), methanol (75 ml) and 1N sodium hydroxide (21 ml) was stirred at 25° C. for 4 hours, diluted with water (250 ml), acidified with HCl and extracted with ether and methylene chloride. The combined organic extracts were combined, washed with H2O, dried over MgSO4 and evaporated in vacuo to give [(5,6-dichloro-9-hydroxy-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid which melted at 206°-208° C.

reactant | ethyl [(9-acetoxy-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate | 0.0094 mol, 4.27 g | C(C)(=O)OC1C2=CC(=C(C(=C2C2=CC(CC[C@@]12CCC)=O)Cl)Cl)OCC(=O)OCC | C22H24Cl2O6
reactant | methanol | 75 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 250 ml | O | H2O
product | [(5,6-dichloro-9-hydroxy-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CC[C@]3(C(C2=CC(=C1Cl)OCC(=O)O)O)CCC)=O | C18H18Cl2O5
